US06239160B1
15.8 g of 3-ethoxycarbonyl-5-(4-trifluoromethyl-3-pyridyl)-1,2,4-oxadiazole are initially charged in 13 ml of methanol, and, with ice-cooling at 0° C., a solution of 2.8 g of lithium hydroxide in 50 ml of water is added dropwise. The mixture is stirred at room temperature for 2 h, 20 ml of ice-water are added and the mixture is extracted with 200 ml of diethyl ether. The aqueous phase is adjused to pH=2 using dil. HCl, and the precipitated product is filtered off with suction. After drying, 13.8 g of 5-(4-trifluoromethyl-3-pyridyl)-1,2,4-oxadiazole-3-carboxylic acid are obtained as a white solid of mp. 157-159° C.

reactant | 3-ethoxycarbonyl-5-(4-trifluoromethyl-3-pyridyl)-1,2,4-oxadiazole | 15.8 g | C(C)OC(=O)C1=NOC(=N1)C=1C=NC=CC1C(F)(F)F | C11H8F3N3O3
reactant | lithium hydroxide | 2.8 g | [OH-].[Li+]
solvent | methanol | 13 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 5-(4-trifluoromethyl-3-pyridyl)-1,2,4-oxadiazole-3-carboxylic acid | 13.8 g | FC(C1=C(C=NC=C1)C1=NC(=NO1)C(=O)O)(F)F | C9H4F3N3O3
